datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][H:11])=[O:3])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19],176.117
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([S:11][H:17])[C:12](=[S:13])[H:18])([H:14])([H:15])[H:16]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:14])([H:15])[H:16])([S:11][H:17])[C:12](=[S:13])[H:18],93.3032
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([S:6][H:16])[c:7]1[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]1[H:21])([H:13])([H:14])[H:15]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:13])([H:14])[H:15])([S:6][H:16])[c:7]1[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]1[H:21],116.399
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]1([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13]>>[C:0]([C:1](=[C:2][H:12])[H:11])(=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:10],139.415064
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10](=[S:11])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]([C:10](=[S:11])[H:14])([H:12])[H:13],60.668
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]([C:17]([S:18][H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:17]([C:16](=[C:15]([H:19])[H:20])[H:21])([S:18][H:23])[H:22],34.7272
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0](=[C:1][C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([H:7])[H:10])([H:8])[H:9])([H:5])[H:6],177.82
[C:0](#[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11])[H:9].[H:17]>>[C:0](#[C:1][C:2]([c:3]1[c:4][c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11])[H:9].[H:12][H:17],64.508912
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:15],11.84072
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[S:12]=[C:13]([C:14]([S:15][H:19])([H:17])[H:18])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:17])([H:5])([H:6])[H:7].[S:12]=[C:13]([C:14]([S:15][H:19])[H:18])[H:16],30.5432
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[O:7]>>[C:0]([O:1][O:2][H:6])([H:4])[H:5].[H:3][O:7],19.874
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20],-15.0624
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19],82.0064
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14][S:15][H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14](=[C:13]([H:16])[H:17])[S:15][H:18],-33.472
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:8])[H:9],47.1537
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:6][O:7][H:17])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:6])([H:8])([H:9])[H:10].[O:7][H:17],172.3808
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[O:6]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:6],116.399
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31],-4.6024
